US06326369B1
2-[8-(4-Chlorophenoxy)octyl]-4,5,6,7-tetramethoxyindan
The mixture of 2-(8-iodooctyl)-4,5,6,7-tetramethoxyindan (830 mg), 4-chlorophenol (269 mg), and potassium carbonate (481 mg) in DMF (8 ml) was stirred at room temperature for 12 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride and dried. The solvent was removed in vacuo. The residue was purified by alumina column chromatography (hexane to hexane:ethyl acetate=10:1) to yield the entitled compound (776 mg) as crystals.

reactant | 2-(8-iodooctyl)-4,5,6,7-tetramethoxyindan | 830 mg | ICCCCCCCCC1CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC | C21H33IO4
reactant | 4-chlorophenol | 269 mg | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | potassium carbonate | 481 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-[8-(4-Chlorophenoxy)octyl]-4,5,6,7-tetramethoxyindan | 776 mg | ClC1=CC=C(OCCCCCCCCC2CC3=C(C(=C(C(=C3C2)OC)OC)OC)OC)C=C1 | C27H37ClO5
